US08258130B2
A solution of 2-phenyl-pyrimidine-5-carboxylic acid piperazin-1-ylamide dihydrochloride (0.43 mmol), acetyl chloride (1.28 mmol) and Et3N (1.72 mmol) in DMF (8 mL) is stirred at rt overnight. mixture is concentrated in vacuo. The residue is dissolved in EtOAc (15 mL), washed with water and brine, dried (Na2SO4), filtered and concentrated in vacuo. The residue is triturated with ether to afford 2-phenyl-pyrimidine-5-carboxylic acid (4-acetyl-piperazin-1-yl)-amide (98 mg, 71%) as a solid. MS: 326 (M+H); 1H NMR (300 MHz, CDCl3): δ 2.12 (s, 3H), 2.92-3.10 (m, 4H), 3.40-4.10 (m, 4H), 7.43-7.60 (m, 3H), 7.75 (br, N—H), 8.52 (m, 2H), 9.11-9.38 (br, 2H).

reactant | 2-phenyl-pyrimidine-5-carboxylic acid piperazin-1-ylamide dihydrochloride | 0.43 mmol | Cl.Cl.N1(CCNCC1)NC(=O)C=1C=NC(=NC1)C1=CC=CC=C1
reactant | acetyl chloride | 1.28 mmol | C(C)(=O)Cl | C2H3ClO
reactant | Et3N | 1.72 mmol | CCN(CC)CC | C6H15N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2-phenyl-pyrimidine-5-carboxylic acid (4-acetyl-piperazin-1-yl)-amide | 98 mg, 71% | C(C)(=O)N1CCN(CC1)NC(=O)C=1C=NC(=NC1)C1=CC=CC=C1 | C17H19N5O2
